US07592477B2
Step a) Formation of N-{(1R)-1-[4-(trifluoromethyl)phenyl]ethyl}-N-[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amine
The same procedure as employed in the preparation of Example 226 (step a) but using 4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzaldehyde and (1R)-1-[4-(trifluoromethyl)phenyl]ethylamine gave the title compound as a colorless oil (71%). M+(LC/MS(ESI)): 502.4. HPLC (Condition A), Rt: 5.04 min (HPLC purity: 99.6%).

reactant | 4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzaldehyde | C(CCCCCCCCCC)C1=NOC(=N1)C1=CC=C(C=O)C=C1 | C20H28N2O2
reactant | (1R)-1-[4-(trifluoromethyl)phenyl]ethylamine | FC(C1=CC=C(C=C1)[C@@H](C)N)(F)F | C9H10F3N
product | N-{(1R)-1-[4-(trifluoromethyl)phenyl]ethyl}-N-[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amine | 71% | FC(C1=CC=C(C=C1)[C@@H](C)NCC1=CC=C(C=C1)C1=NC(=NO1)CCCCCCCCCCC)(F)F | C29H38F3N3O
